US06727254B2
Step 1: 2-Tributylstannylpyrimidine
Prepare this compound according to the procedure described by Sandosham et al, Tetrahedron (1994), 50, 275-284). Prepare fresh LDA from diisopropyl amine (25 ml, 178 mmol) and n-BuLi (2.5 M, 70 ml, 175 mmol) in THF (230 ml). Treat the LDA solution with a solution of tributyltin hydride (142 ml, 156 mmol) in THF (30 ml) dropwise at 0° C. and stir for an additional 15 min after completion of addition. Cool the reaction mixture to −78° C., add a solution of 2-chloropyrimidine (15 g, 131 mmol) in THF (100 ml) dropwise and stir the reaction mixture for 3 h at −78° C., then allow the reaction mixture to warm to 0° C. over a period of 30 min. Pour the reaction mixture on saturated aqueous NH4Cl and extract with EtOAc. Combine the organic layers, dry and concentrate. Purify the residue by column chromatography to produce the desired compound as a light yellow oil. 1H NMR (CDCl3) δ8.65 (d, 2H), 7.1 (t, 1H), 1.6 (m, 6H), 1.3 (m, 6H), 1.1 (m, 6H), 0.85 (t, 9H).

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | diisopropyl amine | 178 mmol, 25 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 175 mmol, 2.5 M, 70 ml | [Li]CCCC
reactant | tributyltin hydride | 156 mmol, 142 ml | C(CCC)[SnH](CCCC)CCCC
reactant | 2-chloropyrimidine | 131 mmol, 15 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 230 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-Tributylstannylpyrimidine | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC | InChI=1S/C4H3N2.3C4H9.Sn/c1-2-5-4-6-3-1;3*1-3-4-2;/h1-3H;3*1,3-4H2,2H3;
